US08252946B2
A suspension of Tigecycline was prepared by mixing a solid Tigecycline sample and acetonitrile in amounts as shown in Table A. The mixture was than stirred for 1 hour at room temperature before 5 N hydrochloric acid was added in amounts corresponding to Table A. After stirring for about 20 hours the solid was filtered off and dried at room temperature under vacuum to obtain crystalline form A of Tigecycline hydrochloride.

reactant | Tigecycline | CC(C)(C)NCC(=O)NC=1C=C(C2=C(C1O)C(=O)C3=C([C@]4([C@@H](C[C@@H]3C2)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)N(C)C | C29H39N5O8
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | Tigecycline hydrochloride | CC(C)(C)NCC(=O)NC1=C(C2=C(C[C@H]3C[C@H]4[C@@H](C(=O)C(=C([C@]4(C(=O)C3=C2O)O)O)C(=O)N)N(C)C)C(=C1)N(C)C)O.Cl | InChI=1S/C29H39N5O8.ClH/c1-28(2,3)31-11-17(35)32-15-10-16(33(4)5)13-8-12-9-14-21(34(6)7)24(38)20(27(30)41)26(40)29(14,42)25(39)18(12)23(37)19(13)22(15)36;/h10,12,14,21,31,36-37,40,42H,8-9,11H2,1-7H3,(H2,30,41)(H,32,35);1H/t12-,14-,21-,29-;/m0./s1
